US06207662B1
5-Chloro-4-cyclopropylaminocarbonyl-2-methoxyphenol
A solution of 4-acetoxy-2-chloro-5-methoxybenzoic acid (8.6 g, 35.2 mmol) and triethylamine (8.9 g, 88 mmol) in dry dichloromethane (100 ml) was cooled to 0° C. and ethylchloroformate (7.6 g, 70 mmol) was added at such a rate that the temperature stayed below 5° C. After 1 h cyclopropylamine (6.0 g, 105 mmol) was added. After stirring overnight at room temperature the organic phase was washed with water (2×200 ml). Drying over magnesium sulfate was followed by reduction of the solvent volume to half. Petrol ether was added and the product was filtered off. Yield 570 mg, 6.7%, mp 214-216° C.

reactant | 4-acetoxy-2-chloro-5-methoxybenzoic acid | 35.2 mmol, 8.6 g | C(C)(=O)OC1=CC(=C(C(=O)O)C=C1OC)Cl | C10H9ClO5
reactant | triethylamine | 88 mmol, 8.9 g | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 70 mmol, 7.6 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | cyclopropylamine | 105 mmol, 6.0 g | C1(CC1)N | C3H7N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Chloro-4-cyclopropylaminocarbonyl-2-methoxyphenol | ClC=1C(=CC(=C(C1)O)OC)C(=O)NC1CC1 | C11H12ClNO3
